US04066710
4.8 g (0.11 mol) of a 50% suspension of sodium hydride in paraffin oil are mixed with 120 ml of benzene in a three-necked flask provided with a thermometer, stirrer, reflux condenser and dropping funnel. 16.9 g of 2,7-dimethyl-5,7-octadien-2-ol are slowly added dropwise thereto. The reaction is completed by heating the mixture at reflux for 2 hours. 28 g (0.2 mol) of methyl iodide are then added dropwise at 30° C. After completion of the addition, the mixture is heated at reflux for 2 hours. After cooling, 50 ml of water are cautiously added. The benzene layer is separated and washed neutral with water. The solvent is distilled off and the residue fractionally distilled. There are obtained 13.7 g of 2-methoxy-2,7-dimethyl-5,7-octadiene of boiling point 72° C/3 mm Hg; nD20 = 1.4670; IR n° 24872 (s 1085 cm-1); NMR n° 23421 (3.17 ppm, 3 H, S, --O--CH3). Odor: natural, fresh, reminiscent of lavender; suitable in combination with esters.

reactant | sodium hydride | [H-].[Na+]
reactant | benzene | 120 ml | C1=CC=CC=C1 | C6H6
reactant | 2,7-dimethyl-5,7-octadien-2-ol | 16.9 g | CC(C)(CCC=CC(=C)C)O | C10H18O
reactant | methyl iodide | 0.2 mol, 28 g | CI | CH3I
solvent | water | 50 ml | O | H2O
product | 2-methoxy-2,7-dimethyl-5,7-octadiene | 13.7 g | COC(C)(CCC=CC(=C)C)C | C11H20O
